US07875728B2
5-methyl-4-[(4-trifluoromethylphenyl)hydrazono]-4H-pyrazol-3-ylamine was prepared from 4-trifluoromethylaniline (0.36 g, 2.2 mmol) and 3-amino-5-methylpyrazole (0.3 g, 3.1 mmol) according to procedure described above except that the substituted aniline was initially dissolved in a mixture of water (3.6 mL) and DMF (2.0 mL) prior to being acidified. The crude material was purified by column chromatography (CHCl3:MeOH=10:1) to yield 0.041 g (7%) of the compound as an orange solid. MS (m/z, ES+): 270.2 (M+1, 100%).

reactant | 4-trifluoromethylaniline | 2.2 mmol, 0.36 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | 3-amino-5-methylpyrazole | 3.1 mmol, 0.3 g | NC1=NNC(=C1)C | C4H7N3
reactant | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | water | 3.6 mL | O | H2O
product | 5-methyl-4-[(4-trifluoromethylphenyl)hydrazono]-4H-pyrazol-3-ylamine | CC=1C(C(=NN1)N)=NNC1=CC=C(C=C1)C(F)(F)F | C11H10F3N5
